US05486512
3-Methyl-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazoline
To a mechanically stirred solution of 5 g of 3-methyl-7,8,9,10-tetrahydroazepino[2,1-b]quinazoline-12(6H)-thione in 150 mL of boiling tetrahydrofuran was added in small portions wet Raney nickel (W-2, Davison Chemical, Chattanooga, Tenn.). The progress of the reaction was followed by TLC. When the reaction was complete, the mixture was filtered, solids on the filter were washed thoroughly with tetrahydrofuran and the filtrate was concentrated down. The rest of the workup was identical to that described in method A.

reactant | 3-methyl-7,8,9,10-tetrahydroazepino[2,1-b]quinazoline-12(6H)-thione | 5 g | CC1=CC=C2C(N3C(=NC2=C1)CCCCC3)=S | C14H16N2S
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 3-Methyl-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazoline | CC1=CC=C2CN3C(=NC2=C1)CCCCC3 | C14H18N2
